US07855297B2
To a solution of N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (29.9 g) in ethanol (300 mL) was added 4 mol/L-HCl/dioxane (17.5 mL) at 0° C. The precipitated white solid was collected by filtration and recrystallized from ethanol:water (2:3) to give N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride ½ hydrate (24.1 g). melting point: 146.9° C.

reactant | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 29.9 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C)C | C30H36N2O2
reactant | HCl dioxane | 17.5 mL | Cl.O1CCOCC1
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 24.1 g | Cl.CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C)C | InChI=1S/C30H36N2O2.ClH/c1-21(2)23-11-16-26(17-12-23)32(20-22-9-14-25(15-10-22)31(3)4)30(33)28-8-6-7-24-13-18-27(34-5)19-29(24)28;/h9-19,21,28H,6-8,20H2,1-5H3;1H
